US07786129B2
3-Ethyl-3-{4-[4-(4-fluoro-2-methylphenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 from the starting compounds 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-fluoro-2-methylphenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(4-fluoro-2-methylphenyl)-piperazine | FC1=CC(=C(C=C1)N1CCNCC1)C | C11H15FN2
product | 3-Ethyl-3-{4-[4-(4-fluoro-2-methylphenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.C(C)C1(C(NC2=CC=CC=C12)=O)CCCCN1CCN(CC1)C1=C(C=C(C=C1)F)C | InChI=1S/C25H32FN3O.ClH/c1-3-25(21-8-4-5-9-22(21)27-24(25)30)12-6-7-13-28-14-16-29(17-15-28)23-11-10-20(26)18-19(23)2;/h4-5,8-11,18H,3,6-7,12-17H2,1-2H3,(H,27,30);1H
